US05142056
A. 2-(N-(t-Butyloxycarbonyl)aminomethyl)pyridine
A solution of 21.2 g (97 mmol) of di-t-butyldicarbonate in 200 ml of dichloromethane was cooled to 0° C. and treated in portions with 10 ml (97 mmol) of 2-(aminomethyl)pyridine. After being allowed to warm to ambient temperature and stirred overnight, the resulting solution was diluted with 100 ml of dichloromethane, washed with three 100 ml portions of water, dried over Na2SO4, and concentrated in vacuo to provide 19.8 g (98%) of the desired compound (Rf 0.28, 5% methanol in chloroform). 1H NMR (CCDl3) δ 1.47 (s, 9H), 4.45 (d, J=6 Hz, 2H), 5.56 (br, 1H), 7.18 (m, 1H), 7.28 (d, J=8 Hz, 1H), 7.66 (td, J=7, 2 Hz, 1), 8.53 (m, 1H).

reactant | di-t-butyldicarbonate | 97 mmol, 21.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(aminomethyl)pyridine | 97 mmol, 10 ml | NCC1=NC=CC=C1 | C6H8N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(N-(t-Butyloxycarbonyl)aminomethyl)pyridine | 19.8 g | C(C)(C)(C)OC(=O)NCC1=NC=CC=C1 | C11H16N2O2
